Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
lisinopril / nickel
 
Attending: ___.
 
Chief Complaint:
Motor vehicle collision 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Pt is a ___ who presents with back pain x2 days after MVC, found 
to have L1 burst fracture, sternal fracture, and rib fractures. 
Patient with neck pain as well. No numbness or weakness; no 
saddle anesthesia, urinary retention, or bowel incontinence.
 
Past Medical History:
Past Medical/Surgical History: 
Breast cancer
chronic hepatitis C,
hypertension, Graves' disease, osteoarthritis, and hypertension. 

She is PPD positive, but received BCG prior to becoming positive
and is felt secondary to that, myopia with astigmatism,
presbyopia, dry eye syndrome, and cataracts.
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Examination
Temp: 98.2 HR: 98 BP: 138/71 Resp: 16 O2 Sat: 94
Constitutional: Comfortable
Head / Eyes: Normocephalic, atraumatic, Pupils equal, round and 
reactive to light, Extraocular muscles intact
ENT / Neck: Oropharynx within normal limits, no midline neck 
pain
Chest/Resp: Clear to auscultation, tenderness over the sternum
Cardiovascular: Regular Rate and Rhythm, Normal first and second 
heart sounds
GI / Abdominal: Soft, Nontender, Nondistended, mild ecchymosis 
over the RLQ
Rectal: Normal rectal tone.
GU/Flank: No costovertebral angle tenderness
Musc/Extr/Back: Moving all extremities with normal strength and 
sensation. Tenderness over L1.
Skin: No rash, Warm and dry
Neuro: Speech fluent
Psych: Normal mentation, Normal mood

Discharge Physical Exam:
VS: 98.1, 156/79, 70, 18, 98 Ra 
Gen: A&O x3 sitting up comfortably in chair in brace
Pulm: LS ctab
CV: HRR
Abd: soft NT/ND
Back: TTP over low/lumbar back and over right hip.
Ext: WWP no edema
 
Pertinent Results:
___ 12:52AM BLOOD WBC-14.0*# RBC-3.96 Hgb-12.0 Hct-36.6 
MCV-92 MCH-30.3 MCHC-32.8 RDW-13.3 RDWSD-45.2 Plt ___
___ 12:52AM BLOOD Glucose-148* UreaN-11 Creat-0.6 Na-138 
K-4.7 Cl-100 HCO3-22 AnGap-16
___ 12:52AM BLOOD ALT-27 AST-49* AlkPhos-61 TotBili-0.3
___ 12:52AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Radiology: 
___ MRI Cervical and lumbar: 1. Unchanged burst fracture of L1
vertebral body demonstrating high signal intensity on the STIR
sequence consistent with bone edema and suggestive of acute
fracture.  2. The burst fracture at L1 vertebral body is
producing retropulsion and causes moderate to severe spinal 
canal
narrowing as described above.  There is no evidence of focal or
diffuse changes throughout the lower spinal cord conus 
medullaris to indicate cord edema or cord expansion. 
3. Multilevel, multifactorial degenerative changes throughout 
the
cervical and thoracic spine as described detail above. 

___ CT C-spine: 1. No evidence of acute fracture or traumatic
subluxation. 2. Multilevel degenerative changes, as above. 
Probably moderate central canal narrowing at C4-C5. 3. Tiny air
bubble in the left supraclavicular ___ be related to
trauma, IV line use, attempted central line placement,
or residua of previously seen large left axillary air-fluid
collection that was seen on CT chest ___ CT abd/pelvis: 1. 2 column burst fracture of the L1 
vertebral
body with 5 mm retropulsion causing mild to moderate canal
narrowing. 2. Acute displaced right anterior third rib fracture.
3. Nondisplaced sternal fracture. 4. No evidence of traumatic
injury in the abdomen or pelvis. 5. Left breast mass and skin
thickening is compatible with the patient's known malignancy. 
6. Fluid collection containing locule of gas in the left axilla,
of unclear etiology, please correlate clinically. 
7. Dilated pancreatic duct without a definite obstructing mass 
is
noted.  This can be further evaluated with a nonemergent MRCP. 

___ CT head: 1. No acute intracranial process. 
2. 2.4 cm heavily calcified mass overlying the left frontal 
___ represent completely calcified meningioma or osteoma.  Mass
effect on the adjacent superior frontal gyrus, no brain edema. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------    16 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

 
Brief Hospital Course:
___ year old female admitted to ___ after a MVC, complaining of 
back pain. The patient was hemodynamically stable and 
neurologicaly intact. Imaging revealed a L1 fracture, rib and 
sternal fractures. Spine was consulted and recommended 
non-operative management with a TLSO brace at all times when out 
of bed. The patient was incidentally noted to have a UTI for 
which she was treated with a course of antibiotics. Imaging also 
revealed incidental findings of a left axillary fluid collection 
for which the patient is scheduled to follow-up with her breast 
surgeon for and a dilated pancreatic duct for which a MRCP is 
recommended outpatient. 

Pain was well controlled. Diet was progressively advanced as 
tolerated to a regular diet with good tolerability. The patient 
voided without problem. During this hospitalization, the patient 
was adherent with respiratory toilet and incentive spirometry, 
and actively participated in the plan of care. The patient 
received subcutaneous heparin and venodyne boots were used 
during this stay. Physical Therapy evaluated the patient and 
recommended rehab once medically clear to continue her recovery. 


At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, out of bed with assist in the TLSO brace, voiding without 
assistance, and pain was well controlled.  The patient was 
discharged to rehab. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Medications - Prescription
ALENDRONATE - alendronate 70 mg tablet. 1 tablet(s) by mouth
weekly -  (Prescribed by Other Provider)
FLUTICASONE - fluticasone 50 mcg/actuation nasal
spray,suspension.  Daily as directed -  (Prescribed by Other
Provider)
GABAPENTIN - Dosage uncertain -  (Prescribed by Other Provider)
NIFEDIPINE - nifedipine ER 60 mg tablet,extended release. 1
tablet(s) by mouth daily -  (Prescribed by Other Provider)
SOFOSBUVIR-VELPATASVIR [EPCLUSA] - Epclusa 400 mg-100 mg tablet.
Take 1 tablet(s) by mouth daily x 12 weeks -  (On Hold from
___ to unknown for pending breast surgery)
VALSARTAN - valsartan 40 mg tablet. 1 tablet(s) by mouth daily - 

(Prescribed by Other Provider)
 
Medications - OTC
ACETAMINOPHEN [TYLENOL] - Dosage uncertain -  (Prescribed by
Other Provider: ___
ASPIRIN [ADULT LOW DOSE ASPIRIN] - Adult Low Dose Aspirin 81 mg
tablet,delayed release. 1 tablet(s) by mouth once a day - 
(Prescribed by Other Provider)
CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D3] - Dosage uncertain - 
(OTC)
KETOTIFEN FUMARATE - Dosage uncertain -  (Prescribed by Other
Provider)
MULTIVITAMIN - multivitamin tablet. 1 tablet(s) by mouth daily - 

(___)
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation   
3.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days  
4.  Docusate Sodium 100 mg PO BID  
5.  Heparin 5000 UNIT SC BID  
6.  Milk of Magnesia 30 mL PO DAILY:PRN constipation   
7.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
8.  Polyethylene Glycol 17 g PO DAILY  
9.  Senna 8.6 mg PO BID constipation  
10.  Gabapentin 300 mg PO TID  
11.  NIFEdipine CR 60 mg PO DAILY  
12.  Valsartan 40 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
[] L1 burst fracture
[] Right ___ rib fracture 
[] Sternal fracture

Incidental Finding:
[] Urinary tract infection
[] Fluid collection containing locule of gas in the left axilla
[] Dilated pancreatic duct without a definite obstructing mass 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance to ___ TLSO 
brace

 
Discharge Instructions:
You were admitted to ___ after a motor vehicle collision. You 
were found to have a lumbar L1 burst fracture, sternal fracture, 
and rib fractures. The Spine doctors ___ and 
determined the fracture did not warrant operative repair and 
would heal on its own with a brace. They are recommending you 
wear the TLSO brace when out of bed at all times. 

Physical Therapy worked with you and are recommending you be 
discharged to rehab to continue your recovery. 

* Your injury caused multiple right sided rib fractures and a 
sternal fracture which can cause severe pain and subsequently 
cause you to take shallow breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.

During your work-up we incidentally found a few things that you 
should be aware of:

Your urine was sent for analysis and grew bacteria, therefore 
you are being treated for a UTI with antibiotics for 3 days. 

On your CT imaging you were incidentally noted to have a fluid 
collection in your left axillary. This may be related to your 
recent breast surgery. Please follow-up with Dr ___ as 
scheduled below to discuss these findings.  

You were also noted to have a dilated pancreatic duct. Radiology 
has recommended you get an MRI non-urgently in the future to 
further evaluate this finding. 

 

 
Followup Instructions:
___